US05474580
A solution of thiophosgene (7.43 ml) in CH2Cl2 (300 ml) was added dropwise over 11/2 hours at 20° C. under a nitrogen atmosphere to a stirred solution of N-ethyl-N-(3-aminopropyl)aniline (17.8 g) and triethylamine (27.8 ml) in CH2Cl2 (500 ml). The mixture was stirred at 20° C. for a further 1/2 hours then heated under reflux for 11/2 hours. The mixture was allowed to cool, washed with water, dried over MgSO4, filtered and solvent removed from the filtrate in vacuo. The product was purified by chromatography on silica gel eluting with CH2Cl2 to give N-ethyl-N-(3-isothiocyanatopropyl)aniline (7.2 g) as a red oil.

reactant | thiophosgene | 7.43 ml | C(=S)(Cl)Cl | CCl2S
reactant | N-ethyl-N-(3-aminopropyl)aniline | 17.8 g | C(C)N(C1=CC=CC=C1)CCCN | C11H18N2
reactant | triethylamine | 27.8 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
product | N-ethyl-N-(3-isothiocyanatopropyl)aniline | 7.2 g | C(C)N(C1=CC=CC=C1)CCCN=C=S | C12H16N2S
